US07511066B2
A. Methyl 4-(2-Fluoroethoxy)-2-hydroxybenzoate
A mixture of methyl 2,4-dihydroxybenzoate (5.04 g, 30 mmol), 1-bromo-2-fluoroethane (4.18 g, 2.46 mL, 33 mmol), potassium carbonate (4.55 g, 33 mmol) and potassium iodide (1 g) in DMF (20 mL) was heated overnight at 55-60° C. before it was poured into water (150 mL). The resulting white precipitate was filtered, redissolved in dichloromethane, dried (MgSO4), concentrated and diluted with hexane to afford the ether in two crops (1.30 g and 2.19 g). The first crop was characterized:

reactant | methyl 2,4-dihydroxybenzoate | 30 mmol, 5.04 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | 1-bromo-2-fluoroethane | 33 mmol, 2.46 mL, 4.18 g | BrCCF | C2H4BrF
reactant | potassium carbonate | 33 mmol, 4.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1 g | [I-].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | Methyl 4-(2-Fluoroethoxy)-2-hydroxybenzoate | FCCOC1=CC(=C(C(=O)OC)C=C1)O | C10H11FO4
